US04347185
A solution of 1.34 g. of 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 50 ml. of isopropanol, cooled in an ice bath is saturated with gaseous hydrogen chloride, maintaining the temperature of the reaction mixture below 50° C. The ice bath is then removed and the reaction mixture is stirred for 1.5 hours at room temperature, and evaporated to dryness under reduced pressure; 10 ml. of benzene is added to the residue and the solution is evaporated under vacuum once again, repeating this process a total of three times to completely remove the excess hydrogen chloride, thus obtaining of isopropyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate. The product is recrystallized from methanol-ethyl acetate.

reactant | 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)O)Br | C15H12BrNO3
reactant | hydrogen chloride | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)OC(C)C)Br | C18H18BrNO3
